US04261999
(RS)-6-Carboxy-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (3.7 g) is added, under a nitrogen atmosphere and in small portions, to a solution of lithium aluminum hydride (1.1 g) in tetrahydrofuran (45 cc); the resulting suspension is heated under reflux for 4 hours. After cooling, water (1.35 cc), 5N aqueous sodium hydroxide solution (0.95 cc) and water (4.35 cc) are successively added dropwise. The inorganic salts formed are filtered off and washed with methylene chloride (5×20 cc). The filtrates are combined and evaporated to dryness under reduced pressure (25 mm Hg; 3.3 kPa) at 60° C. The residue is dissolved in boiling acetonitrile (15 cc) and the solution is cooled and then kept at 5° C. for 20 hours. The resulting crystals are filtered off, washed with cyclohexane and dried at 20° C. under reduced pressure (0.1 mm Hg; 0.013 kPa). (RS)-6-Hydroxymethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (1.2 g), melting at 110° C., is thus obtained.

reactant | (RS)-6-Carboxy-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 3.7 g | C(=O)(O)C1CC2=C(CN1)C=CS2 | C8H9NO2S
reactant | lithium aluminum hydride | 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.35 cc | O | H2O
reactant | sodium hydroxide | 5N, 0.95 cc | [OH-].[Na+]
reactant | water | 4.35 cc | O | H2O
solvent | tetrahydrofuran | 45 cc | O1CCCC1 | C4H8O
product | (RS)-6-Hydroxymethyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 1.2 g | OCC1CC2=C(CN1)C=CS2 | C8H11NOS
